US08012982B2
Step 6: tert-butyl piperidine-4-carboxylate
To a solution of 1-benzyl 4-tert-butyl piperidine-1,4-dicarboxylate in EtOAc (0.1 M), a catalytic amount of Pd/C (5%) was added and the atmosphere in the reaction vessel charged with H2 (1 atmosphere). The reaction mixture was stirred vigorously at RT for 8 h. The solution was filtered and the filtrate concentrated in vacuo to afford the title compound (76%); MS (ES+) m/z 186(M+H)+

reactant | 1-benzyl 4-tert-butyl piperidine-1,4-dicarboxylate | N1(CCC(CC1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C18H25NO4
solvent | EtOAc | 0.1 M | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl piperidine-4-carboxylate | 76% | N1CCC(CC1)C(=O)OC(C)(C)C | C10H19NO2
